US09079866B2
N-(1-((2-Bromophenyl)sulfonyl)piperidin-4-yl)acetamide
A solution of 2-bromobenzene-1-sulfonyl chloride (0.500 g, 1.96 mmol), 4-acetamidopiperidine (0.335 g, 2.45 mmol), and diisopropylethyl amine (1.0 mL, 5.8 mmol) in CH2Cl2 (5 mL) was stirred for 15 min at rt. The reaction mixture was then washed with 1 N HCl (2×5 mL) followed by brine (10 mL). The organic layer was isolated, dried over MgSO4, filtered, and concentrated to dryness to give the title compound (0.672 g, 95%). The product was used without further purification. 1H NMR (400 MHz, CDCl3) δ 8.09-8.05 (m, 1H), 7.77-7.74 (m, 1H), 7.49-7.38 (m, 2H), 6.08 (d, J=8.0, 1H), 3.87-3.79 (m, 2H), 2.93-2.85 (m, 2H), 2.00-1.93 (m, 5H), 1.59-1.51 (m, 3H).

reactant | 2-bromobenzene-1-sulfonyl chloride | 1.96 mmol, 0.500 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 4-acetamidopiperidine | 2.45 mmol, 0.335 g | C(C)(=O)NC1CCNCC1 | C7H14N2O
reactant | diisopropylethyl amine | 5.8 mmol, 1.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(1-((2-Bromophenyl)sulfonyl)piperidin-4-yl)acetamide | 0.672 g, 95% | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)NC(C)=O | C13H17BrN2O3S
